US06805978B2
Synthesis of 1,4-diketo-2,5-diethyl-3,6-bis(1-naphthyl)pyrrolo[3,4-c]pyrrole
In 36 mL of t-amyl alcohol, 7.3 g of potassium-t-butoxide were solved, and then 10 g of 1-naphthonitrile were added stirring the solution at 90° C. Into the solution, 6.7 mL of diisopropyl succinate were dropped taking time for 2 hours and were placed under reflux for one day. Next, 30 mL of methanol and 4.4 mL of acetic acid were added at 60° C. and then refluxed for 30 minutes. After cooling, the product was separated out through a filter and subsequently rinsed with methanol, thus resulting in a red powder. Next, 2.89 g of the resulting red powder were dissolved in 80 mL of DMF, and 2.1 g of potassium-t-butoxide were added and stirred for one hour. Then, 1.5 mL of methyl iodide was added and stirred at 65° C. for one day. After 50 mL of water was added, extraction was performed with dichloromethane. The extract was concentrated and refined through a column chromatography with silica gel and thus results in 1.5 g of yellow powder. The following is the results of 1H-NMR analysis.

reactant | potassium-t-butoxide | 7.3 g | CC(C)([O-])C.[K+]
reactant | 1-naphthonitrile | 10 g | C1(=CC=CC2=CC=CC=C12)C#N | C11H7N
reactant | diisopropyl succinate | 6.7 mL | C(CCC(=O)OC(C)C)(=O)OC(C)C | C10H18O4
reactant | potassium-t-butoxide | 2.1 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.5 mL | CI | CH3I
reactant | acetic acid | 4.4 mL | C(C)(=O)O | C2H4O2
solvent | t-amyl alcohol | 36 mL | C(C)(C)(CC)O | C5H12O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 1,4-diketo-2,5-diethyl-3,6-bis(1-naphthyl)pyrrolo[3,4-c]pyrrole | 1.5 g | O=C1N(C(=C2C1=C(N(C2=O)CC)C2=CC=CC1=CC=CC=C21)C2=CC=CC1=CC=CC=C21)CC | C30H24N2O2
